US07166598B2
A solution of (S)-methyl glycidyl ether (10 g) and benzylamine (3.62 g) in methanol (50 ml) was stirred at 55° C. for 2 hours. To the mixture was added (S)-methyl glycidyl ether (1 g), and the mixture was stirred at 55° C. for 2 hours, and then evaporated under reduced pressure. Toluene was added to the residue and evaporated under reduced pressure to give (2S)-1-[N-benzyl-N-[(2S)-2-hydroxy-3-methoxypropyl]amino]-3-methoxypropan-2-ol (8.84 g) as a pale yellow oil.

reactant | (S)-methyl glycidyl ether | 10 g | C([C@@H]1CO1)OC | C4H8O2
reactant | benzylamine | 3.62 g | C(C1=CC=CC=C1)N | C7H9N
reactant | (S)-methyl glycidyl ether | 1 g | C([C@@H]1CO1)OC | C4H8O2
solvent | methanol | 50 ml | CO | CH4O
product | (2S)-1-[N-benzyl-N-[(2S)-2-hydroxy-3-methoxypropyl]amino]-3-methoxypropan-2-ol | 8.84 g | C(C1=CC=CC=C1)N(C[C@@H](COC)O)C[C@@H](COC)O | C15H25NO4
